US07576085B2
To a solution of 2-amino-3-chloropyrazine (0.20 g, 1.5 mmol, 1.00 equiv) and 3-methoxyphenacyl bromide (0.71 g, 3.1 mmol, 2.0 equiv) in dioxane (10 mL) was heated at 90° C. for 3 hr. The resulting mixture was cooled to rt and filtered. The filtrate was partitioned between 10% IPA/DCM and 1 N NaOH. The aqueous extract was washed with 10% IPA/DCM (2×) and the combined organic extracts were washed with brine and dried with sodium sulfate. Concentration afforded 8-chloro-2-(3-methoxy-phenyl)-imidazo[1,2-a]pyrazine (76 mg, 19%). MH+ (LCMS) 260.1 (m/z).

reactant | 2-amino-3-chloropyrazine | 1.5 mmol, 0.20 g, 1.00 equiv | NC1=NC=CN=C1Cl | C4H4ClN3
reactant | 3-methoxyphenacyl bromide | 3.1 mmol, 0.71 g, 2.0 equiv | COC=1C=C(C(CBr)=O)C=CC1 | C9H9BrO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-chloro-2-(3-methoxy-phenyl)-imidazo[1,2-a]pyrazine | 76 mg, 19% | ClC=1C=2N(C=CN1)C=C(N2)C2=CC(=CC=C2)OC | C13H10ClN3O
